Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
Liver laceration
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Note and history taken from ___ census. ___ y/o male with
history of HTN, T2DM, CVA ___ (R retinal vein occlusion,
anti-coagulated with Coumadin), hx of CLL, CHF (unclear EF)
presented to ___ after being found down, altered, and
hypotensive. No clear trauma or inciting event, unknown if he
fell from a certain height, ?syncope. CT at OSH demonstrated
active extravasation of blood from the dome of the liver. CT 
head
was unremarkable. He was taken to the OR at ___, where
EBL was 1L after exploratory laparotomy and top of liver packed
with 50 laps/ray-techs. He had received 2u PRBC in the ED, 6 in
the OR, and 1u PRBC on MedFlight. While being transported, he 
was
hypotensive with MAPs in ___, supported with Norepinephrine.
WBC was 36.8, and he received 1 dose of Vancomycin and Zosyn
empirically. Also received TXA and KCentra, and was sedated and
paralyzed with Rocuronium for the transport. Pt was hypothermic
during transport as well to 34 Celsius.  
 
 On arrival to the ___, BP 68/40 (MAP 56); he was continued on
Norepinephrine, received transient Phenylephrine and 
Vasopressin,
received 2L crystalloid, and was initiated on our massive
transfusion protocol ___ FFP, 1 Plt, 1u PRBC). Also received 2
amps of bicarbonate and 4g calcium gluconate. L SC cordis was
placed. Midazolam and Fentanyl were continued for sedation and
analgesia.  
 
 He stabilized off of pressors. Primary survey was WNL 
otherwise;
no spine stepoffs, good rectal tone. Abdominal packing
demonstrated minimal saturation with blood on arrival. He will 
be
monitored for hemodynamic stability.  

 
Past Medical History:
Past medical / surgical history: HTN, T2DM, CVA ___ (R retinal
vein occlusion, anti-coagulated with Coumadin), hx of CLL, CHF
(unclear EF), HLD, GERD, Vertigo  
 
Social History:
___
Family History:
non contributory

 
Physical Exam:
Upon admission:

GEN: intubated/sedated
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, No M/G/R
PULM: intubated
ABD: Soft, open abdomen with iodine barrier in place and visible
packs.
Ext: No ___ edema, ___ warm and well perfused
 
Pertinent Results:
___ 10:44AM BLOOD WBC-48.3* RBC-4.68 Hgb-14.1 Hct-43.5 
MCV-93 MCH-30.1 MCHC-32.4 RDW-14.9 RDWSD-49.4* Plt ___
___ 02:03PM BLOOD WBC-27.8* RBC-3.73* Hgb-11.4* Hct-33.0*# 
MCV-89 MCH-30.6 MCHC-34.5 RDW-15.1 RDWSD-47.8* Plt ___
___ 03:00PM BLOOD Hct-32.0*
___ 08:09PM BLOOD WBC-29.3* RBC-3.66* Hgb-11.2* Hct-31.0* 
MCV-85 MCH-30.6 MCHC-36.1 RDW-15.9* RDWSD-47.8* Plt ___
___ 10:44AM BLOOD ___ PTT-40.0* ___
___ 02:03PM BLOOD ___ PTT-29.9 ___
___ 10:44AM BLOOD Glucose-448* UreaN-20 Creat-1.2 Na-134 
K-5.0 Cl-104 HCO3-7* AnGap-28*
___ 02:03PM BLOOD Glucose-318* UreaN-21* Creat-1.1 Na-139 
K-4.6 Cl-104 HCO3-11* AnGap-28*
___ 08:09PM BLOOD Glucose-176* UreaN-23* Creat-1.3* Na-138 
K-5.0 Cl-106 HCO3-16* AnGap-21*
___ 10:44AM BLOOD Calcium-7.2* Phos-6.8* Mg-1.6
___ 02:03PM BLOOD Calcium-8.7 Phos-4.7* Mg-1.6
___ 08:09PM BLOOD Calcium-8.1* Phos-2.2* Mg-1.7
___ 10:59AM BLOOD Type-ART pO2-237* pCO2-35 pH-7.03* 
calTCO2-10* Base XS--21
___ 12:11PM BLOOD Type-ART pO2-86 pCO2-32* pH-7.21* 
calTCO2-13* Base XS--14
___ 12:21PM BLOOD Type-ART pO2-102 pCO2-31* pH-7.21* 
calTCO2-13* Base XS--14
___ 02:16PM BLOOD Type-ART pO2-112* pCO2-28* pH-7.27* 
calTCO2-13* Base XS--12
___ 04:00PM BLOOD Type-ART Temp-36.5 pO2-136* pCO2-25* 
pH-7.35 calTCO2-14* Base XS--9
___ 08:20PM BLOOD Type-ART pO2-94 pCO2-26* pH-7.45 
calTCO2-19* Base XS--3
___ 10:59AM BLOOD Lactate-8.4*
___ 12:11PM BLOOD Lactate-9.7*
___ 12:21PM BLOOD Lactate-9.8*
___ 02:16PM BLOOD Lactate-10.8*
___ 04:00PM BLOOD Glucose-258* Lactate-8.6*
___ 08:20PM BLOOD Glucose-177* Lactate-5.7*
 
Brief Hospital Course:
Mr. ___ was a ___ transferred from OSH to the ACS service 
due to being hemodinamically stable from a liver laceration of 
unknown etiology. Upon report from the OSH surgeon, the patient 
was found down, altered, and hypotensive at home and rushed to 
the hospital by EMT. Upon evaluation the patient was taken 
emergently to the operating room where an exploratory laparotomy 
was performed. Upon entering the abdomen a laceration over the 
dome of the liver was seen and hemostasis was attempted. Due to 
not being able to control the bleeding, packing's where placed 
over and under the liver, the abdomen was temporarily closed 
with a ioban dressing and the patient was transferred to ___ 
for further care. Upon arrival the patient was hypotensive, on 
pressors and with a wbc of 48.3. The patient blood lost was 
sustained by Massive transfusion protocol. The abdominal 
dressing was opened and a wound vac suction was placed from 
which he was losing frank blood. During his stay in the ICU 
hemodynamic were maintain with multiple pressors medications, 
blood products and crystalloids. All his electrolytes where 
tried to be corrected during this time. The patient also 
received TXA for suspected coagulopathy. Due to continued 
deterioration of his symptoms, a family meeting was arranged and 
the decision of the family was to make him CMO. The patient 
expired shortly afterwards.
 
Medications on Admission:
unknown
 
Discharge Medications:
unknown 
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Liver laceration
 
Discharge Condition:
Expired
 
Discharge Instructions:
Expired
 
Followup Instructions:
___